US07531541B2
To a solution of 5-methyl-2-trimethylsilanylethynylpyridine (5.32 mmol) in 25 mL degassed N,N-dimethylformamide was added successively 3,5-dibromopyridine (6.96 mmol), CuI (0.57 mmol), Et3N (21.2 mmol) and trans-dichlorobis(triphenylphosphine) palladium (29 mmol). The resulting mixture was warmed to 70° C., Bu4NF (5.85 mmol) was added drop-wise, and the reaction was stirred at this temperature 2 h. After cooling, 20 mL of H2O was added and the resulting solution was extracted with EtOAc (4×20 mL). The organic layer was washed with saturated NaCl (3×20 mL), dried over Na2SO4 and evaporated to dryness. Purification of the residue by column chromatography provided Br-5MPEPy in 41% yield as a clear oil. HCl salt was prepared by adding 2 M HCl/Et2O to a solution of free base in EtOAc and isolated by suction filtration. 1H NMR (CDCh) δ ppm: 2.24 (s, 3H, CH3); 7.32 (d, 1H, J=7.5 Hz, CHAr); 7.38 (dd, 1H, J=7.5, 2.5 Hz, CHAr); 7.86 (t, 1H, J=2.5 Hz, CHAr); 8.34 (s, IH, CHAr); 8.50 (d, 1H, J=2.5 Hz, CHAr); 8.59 (d, IH, J=2.5 Hz, CHAT) 13c NMR (CDCh) δ ppm: 18.9 (1C, CH3); 83.6 (1C, C═C); 93.3 (1C, C═C); 120.3 (1C, Cq); 121.4 (1C, Cq); 127.2 (1C, CHAr); 133.9 (1C, Cq); 137.0 (1C, CHAr); 139.6 (1C, Cq); 141.2 (1C, CHAr); 150.4 (1C, CHAT); 150.7 (1C, CHAr); 151.1 (1C, CHAr). HCl salt mp 166-168° C. Anal. (C13H9N2-HCl-0.6H20) C, H, N.

reactant | 5-methyl-2-trimethylsilanylethynylpyridine | 5.32 mmol | CC=1C=CC(=NC1)C#C[Si](C)(C)C | C11H15NSi
reactant | 3,5-dibromopyridine | 6.96 mmol | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | Et3N | 21.2 mmol | CCN(CC)CC | C6H15N
reactant | Bu4NF | 5.85 mmol | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
catalyst | CuI | 0.57 mmol | [Cu]I
solvent | H2O | 20 mL | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(6-Methylpyridin-2-ylethynyl)-5-bromopyridine | 41% yield | CC1=CC=CC(=N1)C#CC=1C=NC=C(C1)Br | C13H9BrN2
